US05629326
1-[4-[3-[4-(6-Chloro-1,2-benzisoxazol-3-yl)-1-piperidinyl]propoxy]-3-methoxyphenyl]ethanone
A stirred mixture of 6-chloro-3-(4-piperidinyl)-l,2-benzisoxazole (4.7 g, 20 mmol), 1-[4-(3-chloropropoxy)-3-methoxyphenyl]ethanone (4.8 g, 20 mmol), K2CO3 (2.8 g), several crystals of KI and acetonitrile (120 ml) was refluxed for 16 hours. The reaction was filtered and the filtrate was concentrated to yield a solid-oil mixture. The residue was chromatographed on a Waters Prep 500 utilizing silica columns and eluting with methylene chloride/methanol (5%). Concentration of the desired fractions yielded 3.2 g of a beige solid, which upon recrystallization from ethanol afforded 2.7 g (31%) of 1-[4-[3-[4-(6-chloro-1,2-benzisoxazol-3-yl)-1-piperidinyl]propoxyl-3-methoxyphenyl]-ethanone as a beige solid, m.p.=116°-118° C.

reactant | 6-chloro-3-(4-piperidinyl)-l,2-benzisoxazole | 20 mmol, 4.7 g | ClC1=CC2=C(C(=NO2)C2CCNCC2)C=C1 | C12H13ClN2O
reactant | 1-[4-(3-chloropropoxy)-3-methoxyphenyl]ethanone | 20 mmol, 4.8 g | ClCCCOC1=C(C=C(C=C1)C(C)=O)OC | C12H15ClO3
reactant | K2CO3 | 2.8 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetonitrile | 120 ml | C(C)#N | C2H3N
product | 1-[4-[3-[4-(6-Chloro-1,2-benzisoxazol-3-yl)-1-piperidinyl]propoxy]-3-methoxyphenyl]ethanone | 3.2 g | ClC1=CC2=C(C(=NO2)C2CCN(CC2)CCCOC2=C(C=C(C=C2)C(C)=O)OC)C=C1 | C24H27ClN2O4
